US07470680B2
5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridine.
To a solution of 5-methoxy-1H-pyrrolo[3,2-b]pyridine (4.0 g, 27.0 mmol) in THF (50 mL) was added NaH (60%, 1.30 g, 32.4 mmol) in small portions at 0° C. over 10 min. The resulting mixture was stirred under N2 for 1 hr, followed by dropwise addition of TIPS-Cl (6.86 mL, 32.4 mmol) in neat through an syringe at 0° C. over 2 min, and stirred for additional 1 hr. The reaction was quenched with sat. NH4Cl (50 mL), extracted with Et2O (500 mL). The extract was washed with brine (50 mL), dried (MgSO4), concentrated on rotary vacuo, and the residue was purified on Biotage Flash Collector eluting with 20-75% EtOAc/Hexanes (1600 mL) to afford the expected product, 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridine (8.25 g, 100%). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.11 (d, J=7.55 Hz, 19 H) 1.57-1.67 (m, J=7.55, 7.55, 7.55, 7.55 Hz, 3 H) 3.98 (s, 3 H) 6.54 (d, J=9.06 Hz, 1 H) 6.67 (d, J=3.02 Hz, 1 H) 7.35 (d, J=3.27 Hz, 1 H) 7.65 (d, J=9.06 Hz, 1 H); Mass spec 305.1 (MH+) calc. for C17H28N2O Si 304.2.

reactant | 5-methoxy-1H-pyrrolo[3,2-b]pyridine | 27.0 mmol, 4.0 g | COC1=CC=C2C(=N1)C=CN2 | C8H8N2O
reactant | NaH | 32.4 mmol, 1.30 g | [H-].[Na+]
reactant | TIPS-Cl | 32.4 mmol, 6.86 mL | CC(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridine | 8.25 g, 100% | COC1=CC=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C | C17H28N2OSi
